Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Acute pancreatitis

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr ___ is a ___ with h/o ETOH abuse, alcoholic pancreatitis, 
CAD who presented to ___ with on day of 
n/v/abd pain and found to have acute pancreatitis and ETOH 
withdrawal on ___. At the time of presentation his Lipase was 
___bd/pelvis showed mild peripancreatic edema and fluid 
infiltration in retroperitoneum. The patient was intially 
treated on the medicine service with IVF, analgesia and kept 
NPO. However, his course was complicated by Delirium tremens for 
which he was transferred to the critical care unit on ___. He 
was treated with dexmedetomide and IV lorazepam with 
improvement. At this time the patient is ___ days out from his 
last drink and maintained on IV lorazepam. The patient began to 
complain of increasing abdominal pain with note of increased 
abdominal girth and tenderness on exam. Repeat CT showed 
enlargement of the pancreas with circumferential peripancreatic 
fluid collection and enlarging collection in lesser sac and 
splenic hilium, as well as retroperitoneal fluid, and findings 
suggestive of pancreatic necrosis. In addition, the patient has 
been persistently febrile over the past few days with maximum 
temp of 102 with persistant leukocytosis (wbc 15K with 30% 
bands). His cultures prior to transfer were negative to date 
other than CDIFF. He was found to have postive CDIFF PCR and was 
started on IV flagyl. Planned to start PO vancomycin but not 
administered prior to transfer. He has remained HD stable 
throughout his course with  BP 110s, HR in 90-100s, O2 stas 96% 
on 2L NC (dropping to 88% on RA), foley in place draining 
100-1500cc/hr on D51/2NS 20KCL at 75cc/hr. He has been kept NPO 
and was on PPN prior to transfer. (He apparently failed speech 
and swallow evaluation on the day of discharge). He was 
transferred to ___ for further management of his pancreatitis 
with consideration of needle aspiration of pancreatic bed to 
exclude superinfection. On the day of discharge, labs were 
significant for lipase 38, albumin 1.8. normal LFTs, glucose 
197, prealb 4.8, WBC 15, HCT 30.

 
Past Medical History:
- ETOH abuse
- Alcoholic Pancreatitis
- Previous sepsis
- PE, IVC filter?
- Cardiomyopathy w/ VFib arrest s/p Placement of cardioverter 
defibrillator ___ 
- Hypertension
- Hyperlipidemia  
- Coronary artery disease  
- GERD 
- splenic infarct

 
Social History:
___
Family History:
Per records: no significant cardiac history
 
Physical Exam:
Vitals: T 100.2 151/78 108 ___ on 2L NC 
General: Alert, oriented to self, intermittently to place and 
date  
HEENT: Sclera anicteric, dry MMM, white plaque on tongue, PERRL  

Neck: supple, JVP not elevated 
CV: Regular, tachycardic, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear anteriorly but difficult to assess due to poor 
patient cooperation. 
Abdomen: distended, bowel sounds present, soft, tender to 
palpation largely in epigastrium  
GU: foley with clear yellow urine 
Skin: erythematous rash in groin 
Ext: warm, well perfused, 2+ pulses, no edema  
Neuro: Altered, intermittently able to respond to questions 
appropriately, moves all exremities

DISCHARGE LABS
VS: 98.2 105-123/60-75, 67-74, 20, 96% RA BG 133-140 I/O ___ + BM 
GEN: generally well appearing, but does appear uncomfortable. 
HEENT: EOMI, sclera anicteric, OP clear  
NECK: No LAD  
CV: RRR, No m/r/g, nl S1, S2  
LUNGS: CTAB, no wheezing, no crackles
ABD: No epigastric tenderness, normal bowel sounds, 
non-distended  
EXT: No edema, 2+ radial, DP, ___ pulses bilaterally. 
Erythematous and slightly tender R great toe, no abnormalities 
appreciated on left foot.
NEURO: CN II-XII intact Moving all four extremities 
spontaneously, gait normal. Appropriate, alert. 

 
Pertinent Results:
OSH:
CT abd/pelvis ___
Small right mod left pleural effusion. heart enlarged. no 
pericardial effusion. no biliary dilation but high density 
material in gallbladder. Progressive severe pancreatitis wit 
pancreatic enlargement and new findings of pancreatic necrosis. 
___ pancreatic, lesser sac, retroperitoneal, mesenteric fluid 
collections. new thickened transverse colon. Pancreatic severity 
index ___.
.
ADMISSION 
___ 01:41AM BLOOD WBC-19.5*# RBC-3.25* Hgb-10.4*# Hct-30.9* 
MCV-95 MCH-32.1* MCHC-33.7 RDW-13.8 Plt ___
___ 01:41AM BLOOD Neuts-88.1* Lymphs-7.0* Monos-3.7 Eos-1.0 
Baso-0.2
___ 01:41AM BLOOD Glucose-144* UreaN-11 Creat-0.7 Na-136 
K-4.7 Cl-101 HCO3-23 AnGap-17
___ 01:41AM BLOOD Albumin-3.1* Calcium-9.2 Phos-3.2 Mg-2.1
.
PERTINENT
___ 01:41AM BLOOD ___ PTT-24.6* ___
___ 01:41AM BLOOD ALT-22 AST-41* LD(LDH)-457* AlkPhos-87 
TotBili-0.3
___ 09:34AM BLOOD Lipase-57
___ 01:41AM BLOOD Triglyc-133
___:08AM BLOOD Lactate-2.1*
___ 02:08AM BLOOD freeCa-1.20
___ 02:02AM URINE Color-Yellow Appear-Clear Sp ___
___ 02:02AM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-8.0 Leuks-NEG
___ 02:02AM URINE RBC-38* WBC-1 Bacteri-FEW Yeast-NONE 
Epi-0
__________________________________________________________
___ 10:53 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 1:57 pm BLOOD CULTURE      Source: Venipuncture #2. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 1:57 pm BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 1:52 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 8:22 am BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 4:07 am BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 9:46 pm URINE      Source: Catheter. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 9:50 pm BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 9:34 am BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 1:41 am BLOOD CULTURE      Source: Venipuncture. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
__________________________________________________________
___ 1:41 am MRSA SCREEN      Source: Nasal swab. 

                            **FINAL REPORT ___

   MRSA SCREEN (Final ___:    No MRSA isolated. 

STUDIES:
___ CXR Feeding tube tip is in the distal stomach.  There is 
obscuration of the left hemidiaphragm in the retrocardiac region 
consistent with volume loss/infiltrate.  The remainder of the 
lungs are clear.  Single dual-lead cardiac pacemaker is again 
visualized. 

DISCHARGE LABS

___ 06:50AM BLOOD WBC-6.0 RBC-2.69* Hgb-8.5* Hct-26.0* 
MCV-97 MCH-31.8 MCHC-32.8 RDW-13.7 Plt ___
___ 06:50AM BLOOD Glucose-120* UreaN-5* Creat-0.7 Na-142 
K-4.7 Cl-108 HCO3-27 AnGap-12
___ 06:50AM BLOOD Calcium-9.2 Phos-5.1* Mg-1.8
 
Brief Hospital Course:
Mr ___ is a ___ with h/o ETOH abuse, pancreatitis, CAD who 
presented to ___ with acute pancreatitis on 
___ c/b ETOH withdrawal with DTs, transferred to the ___ MICU 
for further management of pancreatitis and delirium who has been 
managed conservatively.

ACUTE CARE 
# Acute Pancreatitis Patient with h/o pancreatitis likely 
secondary to ETOH abuse ___ 133). There was concern for 
pancreatic necrosis at OSH, however review of imaging here 
showed acute pancreatitis but no etiology of necrosis. Upon 
transfer from OSH, he was initially febrile with a mild 
leukocytosis, and this was attributed to possible cytokine 
release from pancreatitis. He was managed at OSH and at ___ 
with IVF, NPO and pain control, received tube feeds, this was 
subsequently stopped and Dobhoff was discontinued. He was then 
trialed on clear diet but had recurrence of pain, he was again 
NPO with IV dilaudid pain medications, and then diet was 
advanced and he was transitioned to PO dilaudid without any 
worsening of pain.  He was discharged on BRAT diet with very 
cautious advancement. 
 
# CDIFF colitis  - tested positive at OSH and given IV flagyl, 
but was started on PO vanc on ___ for ___t time of 
discharge, he was having formed stools.

# ETOH abuse/delirium tremens: Last drink over 2 weeks ago. 
Patient's course complicated by delirium tremens, he was started 
on Precedex and Lorazepam gtt at the OSH, this was tapered off 
and discontinued with radical improvement in mental status, 
which could indicated that benzo intoxication was a large 
contributor to his delirium. No signs of alcohol withdrawal.  He 
was started on thiamine, MVI, folic acid. Social work was 
consulted and he was felt to be pre-contemplative regarding 
cessation of alcohol. 
 
# Gout: R podogra, possibly some left foot metatarsal pain. 
Improved with treatment with Indomethacin 50mg TID for now and 
also Omeprazole to decrease risk of GIB (not preventative). At 
time of discharge, he had mild pain at R podogra but no pain on 
left foot.
  
# Anemia: Likely secondary to ETOH abuse. Mildly elevated LDH 
but haptoglobin is elevated, making hemolysis unlikely. OSH labs 
showed low iron, high ferritin (consistent with anemia of 
chronic disease). No evidence of bleeding.   

# Transaminitis-resolved, but initially was mild and consistent 
with alcohol-related liver disease.

# fungal infections: The patient endorsed crural candial 
infection and was treated with miconazole powder; he also had 
oral candidiasis and was treated with nystatin s/s

TRANSITIONS OF CARE
# Communication: wife, HCP ___ (cell) ___ (home) 
___  
# Code: Full (confirmed with wife in MICU)   
# ISSUES TO DISCUSS AT FOLLOW UP:
- Consider ASA
- Outpatient EGD recommended
# PENDING STUDIES AT TIME OF DISCHARGE:
- none
 
Medications on Admission:
Home Medications:  
- Omeprazole 20 dialy
- Percocet ___ tabs Q six hours prn
- flexeril 15mg po dilay
- tramadol 50mg po q six hours prn
- citalopram 20mg po daily
-indomethacin 25mg po q8hrs prn 
-tricor 145mg po daily

Medications on Transfer
- Acetaminophen
- Heparin 5000U Sq q8hours 
- Hydromorphone 1mg IV Q 2hours prn
- Ativan 1mg IV q 2hours prn
- Lorazepam 1mg IV q 8hrs
- Metoprolol 2.5mg IV Q6hrs
- ondansetron 4mg iv 8

 
Discharge Medications:
1. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*30 Tablet(s)* Refills:*0*
2. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
3. citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Tricor 145 mg Tablet Sig: One (1) Tablet PO once a day.  
5. vancomycin 125 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours) for 6 days.
Disp:*24 Capsule(s)* Refills:*0*
6. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO once a 
day as needed for constipation.
Disp:*30 Capsule(s)* Refills:*0*
7. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*2*
8. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
9. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
10. quetiapine 25 mg Tablet Sig: ___ Tablets PO twice a day: One 
pill in the morning and 2 pills in the evening.
Disp:*90 Tablet(s)* Refills:*0*
11. indomethacin 25 mg Capsule Sig: Two (2) Capsule PO TID (3 
times a day) as needed for gout.
Disp:*30 Capsule(s)* Refills:*0*
12. miconazole nitrate 2 % Powder Sig: One (1) Appl Topical QID 
(4 times a day) as needed for itch in groin.
Disp:*1 container* Refills:*0*
13. hydromorphone 2 mg Tablet Sig: ___ Tablets PO every ___ 
hours as needed for pain: Do not drive or drink alcohol while 
taking this medication. Do not exceed the recommended dose.
Disp:*20 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Alcoholic Pancreatitis
Alcohol withdrawal
Gout
clostridium difficile colitis

Secondary Diagnosis:
hypertension
hyperlipidemia
coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,
You were admitted for pancreatitis, which was likely due to 
alcohol. Your hospital course was complicated by withdrawal from 
alcohol and gout, both of which have improved. You should eat a 
very conservative diet, and avoid alcohol above all else. We 
recommend for you to eat a BRAT diet, which stands for banana, 
rice, applesauce and toast. 

You must quit drinking alcohol. You have expressed your desire 
to engage with AA, and we highly recommend that you follow 
through with your intention to do this.

Please note the following changes to your medications:
- STOP percocet
- STOP Flexeril
- STOP tramadol
- START dilaudid for pain, discuss decreasing the dose with your 
PCP.
- START senna and colace as a bowel regimen while you are taking 
dilaudid
- START folic acid
- START thiamine
- START multivitamin
- START vancomycin for 6 more days
- START miconazole powder for the itch in your groin as needed
- START indomethacin for gout, stop when no longer needed. Do 
not exceed 50mg three times per day.
- START seroquel one dose in the am and two doses in the pm.

Please be sure to follow up with your primary care physician. We 
recommend that you get an outpatient EGD. Please discuss this 
recommendation with your PCP.
 
Followup Instructions:
___